US04576751
1.62 g (6.20 mmol) of (3S,4S)-3-amino-4-carbamoyloxymethyl-2-oxo-1-azetidinesulphonic acid sodium salt are dissolved in 180 ml of acetone/water (2:1) and treated with 3.27 g (6.83 mmol) of (Z)-2-(2-amino-4-thiazolyl)-2-[[1-(t-butoxycarbonyl)-1-methylethoxy]imino]-acetic acid 2-benzthiazolyl thioester. The mixture is stirred at room temperature for 12 hours. A further 60 mg (0.12 mmol) of the aforementioned thioester are added thereto and the stirring is continued for a further 3 hours. Acetone is removed under reduced pressure and 50 ml of water are added thereto. The crystals obtained are filtered off and washed with a small amount of water. The mother liquor is partially evaporated (37°, 15 mmHg) and the residue is chromatographed (MCI gel, H2O). After lyophilization, there are obtained 2.28 g (77%) of (3S,4S)-3-[2-amino-4-thiazolyl)-2-(Z)-[[1-(t-butyoxycarbonyl)-1-methylethoxy]imino]acetamido]-4-carbamoyloxymethyl-2-oxo-1-azetidinesulphonic acid sodium salt.

reactant | (3S,4S)-3-amino-4-carbamoyloxymethyl-2-oxo-1-azetidinesulphonic acid sodium salt | 6.20 mmol, 1.62 g | [Na+].N[C@@H]1C(N([C@@H]1COC(N)=O)S(=O)(=O)[O-])=O
solvent | acetone water | 180 ml | CC(=O)C.O
product | 4-carbamoyloxymethyl-2-oxo-1-azetidinesulphonic acid sodium salt | [Na+].C(N)(=O)OCC1CC(N1S(=O)(=O)[O-])=O | InChI=1S/C5H8N2O6S.Na/c6-5(9)13-2-3-1-4(8)7(3)14(10,11)12;/h3H,1-2H2,(H2,6,9)(H,10,11,12);/q;+1/p-1
